US06369056B1
6-Chloro-4,4-dimethyl-1,4-dihydro-3-oxa-1,5-diaza-naphthalen-2-one
To a solution of 1-(3-amino-6-chloro-3-nitro-pyridin-2-yl)-propan-2-ol (0.3 g, 1.67 mmol) in anhydrous THF (20 mL) was added a solution of 1,1′-carbonyldiimidazole (0.68 g, 4.12 mmol) in anhydrous THF (10 mL). The reaction mixture was heated under reflux for 3 h. The reaction mixture was treated with 0.5N HCl, washed with brine, H2O, dried (MgSO4), concentrated and crystallized from EtOAc/hexane to obtain the title compound as a white crystalline solid (0.2 g, 56%): mp 175-178° C. 1H NMR( DMSO-d6) δ1.60 (s, 6H), 7.30 (d, 1H, J=8.41 Hz), 7.41 (d, 1H, J=8.41 Hz), 10.47 (s, 1H); MS((+)APCI) m/z 213 (M+H)+; Anal. Calc. For C9H9ClN2O2: C, 50.84; H, 4.27; N, 13.17. Found: C, 50.99; H, 4.28; N, 12.98.

reactant | 1-(3-amino-6-chloro-3-nitro-pyridin-2-yl)-propan-2-ol | 1.67 mmol, 0.3 g | NC1(C(N=C(C=C1)Cl)CC(C)O)[N+](=O)[O-] | C8H12ClN3O3
reactant | 1,1′-carbonyldiimidazole | 4.12 mmol, 0.68 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 0.5N | Cl | ClH
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Chloro-4,4-dimethyl-1,4-dihydro-3-oxa-1,5-diaza-naphthalen-2-one | 0.2 g, 56% | ClC=1N=C2C(OC(NC2=CC1)=O)(C)C | C9H9ClN2O2
